US05889012
4-(2-Hydroxy-1,1,1 -trifluoro-2-propyl)cyclohexanol
18.9 g (0.092 mol) of 4-(2-hydroxy-1,1,1-trifluoro-2-propyl)phenol were hydrogenated in a mixture of 200 ml of isopropanol and 6 ml of concentrated hydrochloric acid in the presence of 2.3 g of rhodium (5% on charcoal) at 150 bar and 50° C. After filtration to remove the catalyst and concentration, 18.8 g (96.6% of theory) remained of a colorless product.

reactant | 4-(2-hydroxy-1,1,1-trifluoro-2-propyl)phenol | 0.092 mol, 18.9 g | OC(C(F)(F)F)(C)C1=CC=C(C=C1)O | C9H9F3O2
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | hydrochloric acid | 6 ml | Cl | ClH
catalyst | rhodium | 2.3 g | [Rh] | Rh
product | 4-(2-Hydroxy-1,1,1 -trifluoro-2-propyl)cyclohexanol | OC(C(F)(F)F)(C)C1CCC(CC1)O | C9H15F3O2
